US05089654
To a solution of 9.35 g of 2'-carboxymethoxy-4'-(3-methyl-butenyloxy)acetophenone and 7.37 g of 4-(1-octenyl)benzaldehyde in 170 ml of ethanol was added 11.5 g of potassium hydroxide and the mixture was stirred for 45 minutes. After neutralization with dilute hydrochloric acid, the precipitated solid was collected by filtration and recrystallized from 90% ethanol to give 9.2 g of 2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)-4-(1-(E)-octenyl)chalcone of the title compound as a plae yellow powder.

reactant | 2'-carboxymethoxy-4'-(3-methyl-butenyloxy)acetophenone | 9.35 g | C(=O)(O)COC1=C(C=CC(=C1)OC=CC(C)C)C(C)=O | C15H18O5
reactant | 4-(1-octenyl)benzaldehyde | 7.37 g | C(=CCCCCCC)C1=CC=C(C=O)C=C1 | C15H20O
reactant | potassium hydroxide | 11.5 g | [OH-].[K+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 2'-carboxymethoxy-4'-(3-methyl-2-butenyloxy)-4-(1-(E)-octenyl)chalcone | 9.2 g | C(=O)(O)COC1=C(C(C=CC2=CC=C(C=C2)\C=C\CCCCCC)=O)C=CC(=C1)OCC=C(C)C | C30H36O5
